US06790977B2
To a 3-necked 250 mL round bottom flask equipped with a mechanical stirrer and a condenser, 3-methoxy-4-hydroxybenzonitrile (13.4 g, 89.9 mmole), lithium chloride (7.6 g, 179.2 mmole), and N,N′-dimethylformamide (60 mL) were added successively at 25° C., followed by heating in an oil bath at 180° C. for 20 hours. The reaction mixture was allowed to cool to 85° C. Water (285 mL) was then added, and upon cooling to 25° C., treatment with concentrated hydrochloric acid proceed. The resulting mixture was extracted with ethyl acetate (300 mL×2). The extract was concentrated under reduced pressure to give a pale brown solid. Water (430 mL) was added and the mixture was then heated till the mixture became homogeneous. After the reaction mixture was cooled down to approximately 40° C., 3,4-Dihydroxybenzonitrile was precipitated out and the reaction mixture was further cooled to 10° C. so as to ensure complete precipitation. The resulting solid was isolated by filtration and dried under reduced pressure. 3,4-Dihydroxybenzonitrile was obtained as a white solid with a yield of 70.6% and a purity of greater than 99% as indicated by HPLC analysis.

reactant | 3-methoxy-4-hydroxybenzonitrile | 89.9 mmole, 13.4 g | COC=1C=C(C#N)C=CC1O | C8H7NO2
reactant | lithium chloride | 179.2 mmole, 7.6 g | [Cl-].[Li+]
reactant | N,N′-dimethylformamide | 60 mL | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | Water | 430 mL | O | H2O
solvent | Water | 285 mL | O | H2O
product | 3,4-Dihydroxybenzonitrile | yield of 70.6% | OC=1C=C(C#N)C=CC1O | C7H5NO2
